US04014916
A solution of 0.5g (0.0012 M) of 7-(2-acetoxyethyl)-10-chloro-11b-(2-fluorophenyl)-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one in 5 ml of methanol was treated with 2 ml of 3N sodium hydroxide. After 3 hours, 50 ml of water was added and the solution was extracted with 40 ml of dichloromethane, which was then dried over anhydrous sodium sulfate and evaporated to dryness. The residue was crystallized from a mixture of methanol and water to give 10-chloro-11b-(2-fluorophenyl)-7-(2-hydroxyethyl)-2,3,5,11b-tetrahydrooxazolo(3,2-d)[1,4]benzodiazepin-6(7H)-one as white prisms, m.p. and m.m.p. 141°-146°.

reactant | 7-(2-acetoxyethyl)-10-chloro-11b-(2-fluorophenyl)-2,3,5,11b-tetrahydrooxazolo[3,2-d][1,4]benzodiazepin-6(7H)-one | 0.0012 M, 0.5g | C(C)(=O)OCCN1C(CN2C(C3=C1C=CC(=C3)Cl)(OCC2)C2=C(C=CC=C2)F)=O | C21H20ClFN2O4
reactant | sodium hydroxide | 3N, 2 ml | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | 10-chloro-11b-(2-fluorophenyl)-7-(2-hydroxyethyl)-2,3,5,11b-tetrahydrooxazolo(3,2-d)[1,4]benzodiazepin-6(7H)-one | ClC=1C=CC2=C(C3(N(CC(N2CCO)=O)CCO3)C3=C(C=CC=C3)F)C1 | C19H18ClFN2O3
